US07435744B2
2-(4-Benzyl-piperidin-1-yl)-N-(3-nitro-phenyl)-2-oxo-acetamide (45 70001862)
The title compound is prepared from N-(3-nitro-phenyl)-oxalamic acid and 4-benzyl-piperidine according to the method described in Example 1c. Melting Point: 138-140° C. (diethylether)

reactant | N-(3-nitro-phenyl)-oxalamic acid | [N+](=O)([O-])C=1C=C(C=CC1)NC(C(=O)O)=O | C8H6N2O5
reactant | 4-benzyl-piperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | diethylether | C(C)OCC | C4H10O
product | 2-(4-Benzyl-piperidin-1-yl)-N-(3-nitro-phenyl)-2-oxo-acetamide | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)NC1=CC(=CC=C1)[N+](=O)[O-])=O | C20H21N3O4
